US06982274B2
N-Ethyl-N′-[3-[3-fluorophenyl)-1H-5-indazolyl]urea
To a solution of 50 mg of tert-butyl 5-amino-3-(3-fluorophenyl)-1H-1-indazolecarboxylate produced in Production Example I-26 in 5.ml tetrahydrofuran was added 0.015 ml of ethyl isocyanate, and the mixture was stirred at room temperature for 2 hours. After the completion of the reaction, to the reaction mixture was added with 1 ml of 5 N hydrochloric acid and the mixture was stirred for further 1 hour. To the reaction mixture was added an aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was sequentially washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. To the residue was added diisopropyl ether, and the mixture was filtered, to give 28 mg of the title compound as a colorless powder.

reactant | tert-butyl 5-amino-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 50 mg | NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F | C18H18FN3O2
reactant | ethyl isocyanate | 0.015 ml | C(C)N=C=O | C3H5NO
reactant | hydrochloric acid | 5 N, 1 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Ethyl-N′-[3-[3-fluorophenyl)-1H-5-indazolyl]urea | 28 mg | C(C)NC(=O)NC=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)F | C16H15FN4O
